US08252935B2
b) 2-{5-[1-(3,5-Di-tert-butyl-benzyl)-piperidin-3-yl]-4′-trifluoromethyl-biphenyl-3-yl}-4-methyl-pentanoic acid
To compound 52a, 2-{5-[1-(3,5-Di-tert-butyl-benzyl)-piperidin-3-yl]-4′-trifluoromethyl-biphenyl-3-yl}-4-methyl-pentanoic acid ethyl ester (85.3 mg, 0.13mmol) in EtOH (6.6 ml) was added 2M KOH (0.66 ml, 1.3 mmol). The reaction was heated to 78° C. for 1 hour, cooled to room temperature, and concentrated in vacuo. Purification via Gilson HPLC, salt exchange with 1N HCl (aqueous) gave the product as a white lyophilate, (50.0 mg, 58%). 1H NMR (300 MHz, MeOD) δ ppm 0.95 (d, J=6.41 Hz, 6 H) 1.34 (s, 18 H) 1.40-1.56 (m, 1H) 1.61-1.71 (m, 1 H) 1.89-2.14 (m, 5 H) 3.01-3.25 (, 3 H) 3.50-3.61 (m, 2 H) 3.73-3.78 (m, 1H) 4.29-4.40 (m, 2 H) 7.30-7.39 (m, 2 H) 7.48 (s, 1 H) 7.57 (d, J=1.88 Hz, 2 H) 7.73-7.82 (m, 4 H) Calcd for C39H50F3NO2 (M+H) 621.82, Found 622.5.

reactant | 2-{5-[1-(3,5-Di-tert-butyl-benzyl)-piperidin-3-yl]-4′-trifluoromethyl-biphenyl-3-yl}-4-methyl-pentanoic acid ethyl ester | 0.13mmol, 85.3 mg | C(C)OC(C(CC(C)C)C=1C=C(C=C(C1)C1CN(CCC1)CC1=CC(=CC(=C1)C(C)(C)C)C(C)(C)C)C1=CC=C(C=C1)C(F)(F)F)=O | C41H54F3NO2
reactant | KOH | 1.3 mmol, 2M, 0.66 ml | [OH-].[K+]
solvent | EtOH | 6.6 ml | CCO | C2H6O
product | 2-{5-[1-(3,5-Di-tert-butyl-benzyl)-piperidin-3-yl]-4′-trifluoromethyl-biphenyl-3-yl}-4-methyl-pentanoic acid | C(C)(C)(C)C=1C=C(CN2CC(CCC2)C=2C=C(C=C(C2)C2=CC=C(C=C2)C(F)(F)F)C(C(=O)O)CC(C)C)C=C(C1)C(C)(C)C | C39H50F3NO2
